US08981085B2
A mixture of 5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-amine (350 mg, 1.52 mmol), 4-(tert-butoxycarbonyl)morpholine-2-carboxylic acid (739 mg, 3.20 mmol), BOP-Cl (813 mg, 3.20 mmol), and triethylamine (1.06 mL, 7.61 mmol) in DCM (5 mL) was stirred at room temperature for 1 hour. 3M LiOH (3 mL) was then added, and stirred for an additional 10 minutes. Water (10 mL) and DCM (10 mL) were then added, and the solid formed was filtered. The solid product was washed with DCM (10 mL) and dried to give tert-butyl 2-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-ylcarbamoyl)morpholine-4-carboxylate (660 mg, 97.9% yield).

reactant | 5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-amine | 1.52 mmol, 350 mg | BrC=1C(=C2C(=NC1)NC=C2N)F | C7H5BrFN3
reactant | 4-(tert-butoxycarbonyl)morpholine-2-carboxylic acid | 3.20 mmol, 739 mg | C(C)(C)(C)OC(=O)N1CC(OCC1)C(=O)O | C10H17NO5
reactant | BOP-Cl | 3.20 mmol, 813 mg | C1COC(=O)N1P(=O)(N2CCOC2=O)Cl | C6H8ClN2O5P
reactant | triethylamine | 7.61 mmol, 1.06 mL | C(C)N(CC)CC | C6H15N
reactant | LiOH | 3M, 3 mL | [Li+].[OH-]
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | Water | 10 mL | O | H2O
product | tert-butyl 2-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-ylcarbamoyl)morpholine-4-carboxylate | 660 mg, 97.9% yield | BrC=1C(=C2C(=NC1)NC=C2NC(=O)C2CN(CCO2)C(=O)OC(C)(C)C)F | C17H20BrFN4O4
